US08304557B2
1,3-dimethyl-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide
A mixture of N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (750 mg, 2.32 mmol), p-toluenesulfonyl chloride (486 mg, 2.55 mmol) and pyridine (6 mL) was stirred at 80° C. for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure and dried to give the title compound (1.13 g, 99%) as a colorless oil.

reactant | N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 2.32 mmol, 750 mg | NC1=CC=C(C=N1)OC=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C17H17N5O2
reactant | p-toluenesulfonyl chloride | 2.55 mmol, 486 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 1,3-dimethyl-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide | 1.13 g, 99% | CN1N=C(C=C1C(=O)NC1=CC(=CC=C1)OC=1C=NC(=CC1)NS(=O)(=O)C1=CC=C(C=C1)C)C | C24H23N5O4S
